US05107010
1-(3-oxo-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-3-trimethylsiloxy-1,4-pentadiene
A solution of 1-(3-oxo-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-1,4-pentadiene-3-ol (2.34 g, 10 mmoles)(prepared as described in J. Org. Chem. 47. 2130-2134 (1982)) in methylenechloride is added triethylamine (2.08 ml, 15 mmoles), trimethylchlorosilane (1.9 ml, 15 mmoles), and N,N-dimethyl-4-aminopyridine (5 mg, catalytic amount). The mixture is stirred at room temperature for four hours, followed by concentration in vacuo and trituration with dry diethylether. The suspension is filtered and the filtrate is concentrated in vacuo yielding the title compound as a slightly yellow oil.

reactant | 1-(3-oxo-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-1,4-pentadiene-3-ol | 10 mmoles, 2.34 g | O=C1C(=C(C(CC1)(C)C)C=CC(C=C)(O)C)C | C15H22O2
reactant | triethylamine | 15 mmoles, 2.08 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 15 mmoles, 1.9 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethyl-4-aminopyridine | 5 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | 1-(3-oxo-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-3-trimethylsiloxy-1,4-pentadiene | O=C1C(=C(C(CC1)(C)C)C=CC(C=C)(O[Si](C)(C)C)C)C | C18H30O2Si
